* Generated by Xic from cell LSmitll_MERGET
* Author: L. Schindler
* Version: 1.1.31
* Last modification date: 31 January2019
* Last modification by: L. Schindler


.tran 0.5p 600p 0 0.25p UIC
.include LSmitll_MERGET_models.inc
.param Scaling=1.0
.param B0=1
.param Ic0=0.0001
.param IcRs=100u*6.859904418
.param B0Rs=IcRs/Ic0*B0
.param Rsheet=2 
.param Lsheet=1.13e-12 
.param B01rx1=0.88429*Scaling
.param B01tx1=0.842106*Scaling
.param B1=1.45438*Scaling
.param B2=0.960422*Scaling
.param B5=0.805138*Scaling
.param IB01rx1=0.000106334*Scaling
.param IB01tx1=5.04979e-5*Scaling
.param IB1=0.000186124*Scaling
.param L01rx1=2e-012*(1/Scaling-(1-Scaling))
.param L02rx1=1.27924e-012*(1/Scaling-(1-Scaling))
.param L02tx1=4.81637e-012*(1/Scaling-(1-Scaling))
.param L1=1.75737e-012*(1/Scaling-(1-Scaling))
.param L2=2e-012*(1/Scaling-(1-Scaling))
.param L6=2.22418e-012*(1/Scaling-(1-Scaling))
.param L7=8.49377e-012*(1/Scaling-(1-Scaling))
.param LRB01rx1=(RB01rx1/Rsheet)*Lsheet
.param LRB01rx2=(RB01rx2/Rsheet)*Lsheet
.param LRB01tx1=(RB01tx1/Rsheet)*Lsheet
.param LRB1=(RB1/Rsheet)*Lsheet
.param LRB2=(RB2/Rsheet)*Lsheet
.param LRB3=(RB3/Rsheet)*Lsheet
.param LRB4=(RB4/Rsheet)*Lsheet
.param LRB5=(RB5/Rsheet)*Lsheet
.param RB01rx1=B0Rs/B01rx1
.param RB01rx2=B0Rs/B01rx1
.param RB01tx1=B0Rs/B01tx1
.param RB1=B0Rs/B1
.param RB2=B0Rs/B2
.param RB3=B0Rs/B1
.param RB4=B0Rs/B2
.param RB5=B0Rs/B5
B01rx1 6 18 37 jmitll area=B01rx1
B01rx2 13 32 42 jmitll area=B01rx1
B01tx1 10 28 40 jmitll area=B01tx1
B1 7 20 38 jmitll area=B1
B2 4 5 36 jmitll area=B2
B3 14 34 43 jmitll area=B1
B4 11 12 41 jmitll area=B2
B5 9 26 39 jmitll area=B5
IB01rx1 0 15 pwl(0 0 5p IB01rx1)
IB01rx2 0 24 pwl(0 0 5p IB01rx1)
IB01tx1 0 23 pwl(0 0 5p IB01tx1)
IB1 0 22 pwl(0 0 5p IB1)
L01rx1 IN_1 6 L01rx1
L01rx2 IN_2 13 L01rx1
L02rx1 6 16 L02rx1
L02rx2 13 30 L02rx1
L02tx1 10 25 L02tx1
L1 16 7 L1
L2 5 8 L2
L3 30 14 L1
L12 23 10 0.2p
L16 24 30 0.2p
L1b 7 4 1p
L25 28 0 0.05p
L29 34 0 0.2p
L3b 14 11 1p
L4 12 8 L2
L6 8 9 L6
L7 9 10 L7
LP01rx1 18 0 0.34p
LP01rx2 32 0 0.34p
LP1 20 0 0.2p
LP5 26 0 0.2p
LPR01rx1 15 16 0.2p
LPR1 22 8 0.2p
LRB01rx1 19 0 LRB01rx1
LRB01rx2 33 0 LRB01rx2
LRB01tx1 29 0 LRB01tx1
LRB1 21 0 LRB1
LRB2 17 5 LRB2
LRB3 35 0 LRB3
LRB4 31 12 LRB4
LRB5 27 0 LRB5
R3 25 OUT 1.36
R7 13 33 9.7
RB01rx1 6 19 RB01rx1
RB01tx1 10 29 RB01tx1
RB1 7 21 RB1
RB2 4 17 RB2
RB3 14 35 RB3
RB4 11 31 RB4
RB5 9 27 RB5
.model jmitll jj(rtype=1, vg=2.8mV, cap=0.07pF, r0=160, rn=16, icrit=0.1mA)
